US04331605
0.084 g of potassium permanganate was added at 0° C. to a mixture of 0.214 g of trans dl 4-(2-ethylsulfinyloxy-isopropyl)-5-[(3-phenoxyphenyl)-methoxy]-tetrahydrofuran-2-one, 4 ml of acetone, 0.3 ml of acetic acid and 2 ml of water and the mixture was stirred at 0° C. for 2 hours. A solution of 0.050 g of potassium permanganate, 1 ml of water and 1 ml of acetone was added to the mixture which was then stirred at 0° C. for 17 hours and was poured into a sodium thiosulfate solution. The mixture was extracted with methylene chloride and the organic phase was washed with sodium bicarbonate solution and then with water, dried and evaporated to dryness without heating. The residue was chromatographed over silica gel and eluted with an 8-2 benzene-ethyl acetate mixture to obtain 0.090 g of trans dl 4-(2-ethyl-sulfonyloxy-isopropyl)-5-[(3-phenoxyphenyl)-methoxy]-tetrahydrofuran-2-one whose IR and NMR spectrum were identical to the compound of Example 1.

reactant | potassium permanganate | 0.084 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 4-(2-ethylsulfinyloxy-isopropyl)-5-[(3-phenoxyphenyl)-methoxy]-tetrahydrofuran-2-one | CCS(=O)OC(C)(C)C1CC(OC1OCC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C22H26O6S
reactant | potassium permanganate | 0.050 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 4-(2-ethyl-sulfonyloxy-isopropyl)-5-[(3-phenoxyphenyl)-methoxy]-tetrahydrofuran-2-one | CCS(=O)(=O)OC(C)(C)C1CC(OC1OCC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C22H26O7S
